US07691867B2
Di-tert-butyl azodicarboxylate (1.44 g, 6.26 mmol) was added portionwise at room temperature to a stirred suspension of 4-chloro-7-methoxyquinazolin-6-ol (1.20 g, 5.70 mmol), 3-morpholin-4-ylpropan-1-ol (0.91 g, 6.27 mmol) and triphenylphosphine (1.8 g, 6.87 mmol) in dichloromethane (25 ml). The reaction mixture was stirred for 2 hours and then the resulting orange solution was purified directly by silica gel chromatography eluting with a mixture of 5% methanol in dichloromethane to give 4-chloro-7-methoxy-6-(3-morpholin-4-ylpropoxy)quinazoline (1.28 g, 67% yield) as a pale yellow solid:

reactant | Di-tert-butyl azodicarboxylate | 6.26 mmol, 1.44 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | 4-chloro-7-methoxyquinazolin-6-ol | 5.70 mmol, 1.20 g | ClC1=NC=NC2=CC(=C(C=C12)O)OC | C9H7ClN2O2
reactant | 3-morpholin-4-ylpropan-1-ol | 6.27 mmol, 0.91 g | N1(CCOCC1)CCCO | C7H15NO2
reactant | triphenylphosphine | 6.87 mmol, 1.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 4-chloro-7-methoxy-6-(3-morpholin-4-ylpropoxy)quinazoline | 1.28 g, 67% yield | ClC1=NC=NC2=CC(=C(C=C12)OCCCN1CCOCC1)OC | C16H20ClN3O3
